US08633212B2
To a mixture of dimethyl 3-oxopentanedioate (20 g, 115 mmol) in anhydrous MeOH (140 mL) was added NaBH4 (2.33 g, 63.18 mmol) in small portions over 10 minutes. The mixture was stirred for 1 h at room temperature and concentrated. Water and EtOAc was added and the organic phase was separated and dried. The combined organic layer was concentrated to give the crude product, which was purified by column chromatography to give dimethyl 3-hydroxypentanedioate (9 g, 44%). 1H-NMR (CDCl3): 2.51 (m, 4H), 3.43 (m, 1H), 3.70 (m, 6H), 4.45 (m, 1H).

reactant | dimethyl 3-oxopentanedioate | 115 mmol, 20 g | O=C(CC(=O)OC)CC(=O)OC | C7H10O5
reactant | NaBH4 | 63.18 mmol, 2.33 g | [BH4-].[Na+]
solvent | MeOH | 140 mL | CO | CH4O
product | dimethyl 3-hydroxypentanedioate | 9 g, 44% | OC(CC(=O)OC)CC(=O)OC | C7H12O5
